US05439928
d) 4-[1,4-bis(4-fluorophenyl)butyl]-1H-imidazole
1-benzyl-5-[1,4-bis(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole (10 g) is dissolved in conc. acetic acid (100 ml). Into the solution is added 0,1 g of palladium on carbon and 0,8 g of ammoniumformate. The mixture is refluxed for an hour and cooled to room temperature. The solution is filtered through silicous earth. The acetic acid filtrate is evaporated, the residue is dissolved in methylene chloride and washed once with 2M aqueous sodium hydroxide solution and once with water. The methylene chloride solution is dried with sodium sulphate and evaporated under reduced pressure. The product is then made to hydrochloride salt with dry hydrogen chloride in diethylether. M.p. 135°-137° C.

reactant | 1-benzyl-5-[1,4-bis(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole | 10 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)(O)C1=CC=C(C=C1)F | C26H24F2N2O
reactant | ammoniumformate | 0,8 g | C(=O)[O-].[NH4+]
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0,1 g | [Pd] | Pd
product | 4-[1,4-bis(4-fluorophenyl)butyl]-1H-imidazole | FC1=CC=C(C=C1)C(CCCC1=CC=C(C=C1)F)C=1N=CNC1 | C19H18F2N2
